Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Gold Salts / azithromycin
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
weight today of 246 pounds and her initial weight of 254 pounds 
at height of 63.25 inches and BMI of 43.2. ___ was 
initially screened and evaluate din our Program in ___ and 
deemed an appropriate candidate for the laparoscopic adjustable 
gastric band that she had placed (10 cm Allergan) by Dr. ___ 
___ on ___. Her high pre-op weight was 263.5 pounds 
with BMI of 45.4. The lowest weight she achieved was 216-218 
pounds in ___. She subsequently developed symptoms of 
reflux and dysphagia, gained weight to high of 256.8 pounds and 
had the band plus port removed by Dr. ___ on ___. 
She was seen in follow-up by Dr. ___ at ___ 
___ in ___ ___ at weight of 256.2 
pounds and BMI of 44.8.  She was considering the sleeve 
gastrectomy that she wanted to have done in ___ and was 
referred to Dr. ___ to begin the evaluation process. Her 
previous weight loss efforts besides the laparoscopic gastric 
band included Weight Watchers, HMR where she lost 40 pounds, 
___, the ___ diet and hypnosis. She has not taken 
prescription weight loss medications nor used over-the-counter 
ephedra-containing appetite suppressants, herbal supplements.  
She stated that her lowest adult weight was 190-200 pounds and 
her highest weight was 285 pounds in ___.  She stated that she 
has been struggling with weight since the age of ___ and cites as 
factors contributing to her excess weight genetics, portion 
sizes, late-night eating, convenience eating, boredom, emotional 
eating, too many carbohydrates and lack of exercise secondary to 
physical limitations.  She denied history of eating disorders - 
no anorexia, bulimia, diuretic or laxative abuse and she denied 
binge eating with purging.  She denied depression except for 
situational/reactive around weight and she has not been followed 
by a therapist nor has she been hospitalized for mental health 
issues and she is not  on any psychotropics medications.
 
Past Medical History:
Her medical history is significant for:

1)  gastroesophageal reflux/heartburn 
2)  osteoarthritis
3)  rheumatoid arthritis
4)  history of breast CA stage I left breast
5)  low back pain
6)  urinary incontinence with history of UTIs
7)  hypertension
8)  history of gallstones
9)  folliculitis
10) heartburn/reflux
11) fractured left leg fallen off bicycle
12) fibroid uterus
13) cervical radiculitis
14) basal cell carcinoma
15) vitamin D deficiency
16) iron deficiency with saturation 14%
17) hyperuricemia
18) history of premature ventricular contractions

Her surgical history is noteworthy of:

1)  left breast lumpectomy with radiation therapy ___
2)  removal of lap band and port ___
3)  laparoscopic adjustable gastric band ___
4)  laparoscopic cholecystectomy ___
5)  TAH/BSO with history of fibroid uterus at ___
 
Social History:
___
Family History:
Her family history is notable for father deceased age ___ of 
heart disease, Alzheimer's; mother deceased age ___ of parotid 
gland tumor, diabetes, hypertension and obesity; 3 brothers one 
with parkinsonism, one with testicular CA and one with diabetes 
s/p sleeve gastrectomy; 4 sisters one deceased and 2 sisters 
with parotid gland tumors; there is strong family history of 
breast CA
among cousins.
 
Physical Exam:
T 98.1 BP 107/68 R Sitting P 70 RR ___ Ra  
General: A&Ox3, no acute distress
Cardio: regular rate and rhythm, normal S1 and S2, no murmurs 
appreciated
Lungs: clear to auscultation bilaterally, no adventitious breath 
sounds detected, good air movement
Abdomen: soft, appropriate ___ tenderness without 
rebound tenderness or guarding, abdominal lap sites with primary 
dressing, CDI; wearing abdominal binder
Extremities: warm, well perfused, +2 pulses bilaterally and 
equally throughout

 
Brief Hospital Course:
Ms. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There 
were no adverse events in the operating room; please see the 
operative note for details. Pt was extubated, taken to the PACU 
until stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative ketorolac, gabapentin and acetaminophen; 
opioid medication was used only for severe breakthrough pain 
prn.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2,  which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
2. Lisinopril 10 mg PO DAILY 
3. Oxybutynin 5 mg PO QHS 
4. Anastrozole 1 mg PO DAILY 
5. metHOTREXate sodium 2.5 mg oral ASDIR 
6. adalimumab 40 mg/0.8 mL subcutaneous ASDIR 
7. Famotidine 20 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Naproxen 500 mg PO ASDIR 
10. mirabegron 50 mg oral ASDIR 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 3000 mg per 24 hour period. 
RX *acetaminophen 650 mg/20.3 mL 20 tablet(s) by mouth every six 
(6) hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
3.  Lisinopril 10 mg PO DAILY  
4.  mirabegron 50 mg oral ASDIR  
5.  Multivitamins 1 TAB PO DAILY  
6.  Oxybutynin 5 mg PO QHS  
7. HELD- adalimumab 40 mg/0.8 mL subcutaneous ASDIR  This 
medication was held. Do not restart adalimumab until you discuss 
with Dr. ___ your rheumatologist
8. HELD- Anastrozole 1 mg PO DAILY  This medication was held. Do 
not restart Anastrozole until ___
9. HELD- metHOTREXate sodium 2.5 mg oral ASDIR  This medication 
was held. Do not restart metHOTREXate sodium until you discuss 
with Dr. ___ your rheumatologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now prepared for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon. You may wear your 
abdominal binder as needed for comfort.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___